US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 4-nitro-3-benzyloxybenzaldehyde dimethyl acetal in an analogous manner to that described in Example 1, gave 9-(3-benzyloxy-4-nitrophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from methanol/water gave a yellow crystalline solid of melting point 239-240° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-nitro-3-benzyloxybenzaldehyde dimethyl acetal | COC(C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)OC | C16H17NO5
product | 9-(3-benzyloxy-4-nitrophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C30H32N2O5
